US05254563
3-Benzoyl-6-hydroxy-4-methoxymethyl-beta-carboline
530 mg of 3-benzoyl-6-triisopropylsilyloxy-4-methoxymethyl-beta-carboline was dissolved in 7.5 ml of absolute tetrahydrofuran and stirred for 0.5 hour under argon at room temperature after adding 1.1 ml of a 1.1 molar tetrabutylammonium fluoride solution in tetrahydrofuran. After adding ethyl acetate, the organic phase was washed with saturated common salt solution, dried and concentrated by evaporation. 315 mg of the title compound was obtained after absorptive precipitation with ethyl acetate/petroleum ether, melting point 258° C.

reactant | 3-benzoyl-6-triisopropylsilyloxy-4-methoxymethyl-beta-carboline | 530 mg | C(C1=CC=CC=C1)(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1COC)O[Si](C(C)C)(C(C)C)C(C)C | C29H36N2O3Si
reactant | tetrabutylammonium fluoride | 1.1 molar | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 7.5 ml | O1CCCC1 | C4H8O
product | 3-Benzoyl-6-hydroxy-4-methoxymethyl-beta-carboline | 315 mg | C(C1=CC=CC=C1)(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1COC)O | C20H16N2O3
